US09108966B2
Propiolamide (0.30 g, 4.37 mmol) was added to a solution of (2S,5R,Z)-6-(benzyloxy)-N-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carb imido yl chloride (3.64 mmol) in dry DCM (10 mL), followed by the addition of TEA (0.56 mL, 4.0 mmol) in DCM (2 mL) over a 30 minute period. The reaction mixture was stirred at rt overnight. Then the mixture was diluted with EtOAc, washed with water and saturated sodium chloride. The combined organic layer was dried over Na2SO4, concentrated and purified by silica gel column chromatography (gradient elution 5:1 to 1:2, petroleum ether/EtOAc containing 1% TEA) to afford 3-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)isoxazole-5-carboxamide (0.4 g, 32%) as a yellow solid. ESI-MS (EI+, m/z): 343 [M+H]+.

reactant | Propiolamide | 4.37 mmol, 0.30 g | C(C#C)(=O)N | C3H3NO
reactant | (2S,5R,Z)-6-(benzyloxy)-N-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carb imido yl chloride | 3.64 mmol | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)/C(=N/O)/Cl | C14H16ClN3O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)isoxazole-5-carboxamide | 0.4 g, 32% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NOC(=C2)C(=O)N | C17H18N4O4
